US07423035B2
1-(4-methoxy-benzyl)-cyclopentylamine
1.4 g (6.17 mmol) 4-(1-aminocyclopentylmethyl)-phenylamine hydrochloride are placed in 25 mL methanol and at 0° C. combined with 2.24 mL (27 mmol) conc. hydrochloric acid. At this temperature 0.51 g (7.41 mmol) sodium nitrite in 1 mL water are added dropwise within 30 minutes. After 2 hours stirring the reaction mixture is allowed to come up to ambient temperature and then refluxed for 3 hours. The solvents are distilled off and the residue is combined with ethyl acetate. It is washed with aqueous ammonia solution, dried with sodium sulphate and evaporated down. The residue is dissolved in ethanol and combined with 10% hydrochloric acid in ethanol. The product precipitated as a salt is filtered off, washed with ethanol and dried. Yield: 0.56 g (27% over 2 steps, hydrochloride), mass spectroscopy: [M+H]+=206.

reactant | 4-(1-aminocyclopentylmethyl)-phenylamine hydrochloride | 6.17 mmol, 1.4 g | Cl.NC1(CCCC1)CC1=CC=C(C=C1)N
reactant | hydrochloric acid | 27 mmol, 2.24 mL | Cl | ClH
reactant | sodium nitrite | 7.41 mmol, 0.51 g | N(=O)[O-].[Na+]
reactant | methanol | 25 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | 1-(4-methoxy-benzyl)-cyclopentylamine | COC1=CC=C(CC2(CCCC2)N)C=C1 | C13H19NO
